US08048909B2
N-Methyl-1-[2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride
Using 2-methyl-5-phenyl-1-phenylsulfonyl-1H-pyrrole-3-carbaldehyde (0.27 g), methylammonium chloride (0.68 g) and sodium cyanoborohydride (0.28 g), a procedure as in Example 4 was performed to give the title compound as colorless crystals (yield 0.11 g, 35%).

reactant | 2-methyl-5-phenyl-1-phenylsulfonyl-1H-pyrrole-3-carbaldehyde | 0.27 g | CC=1N(C(=CC1C=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C18H15NO3S
reactant | methylammonium chloride | 0.68 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.28 g | C(#N)[BH3-].[Na+]
product | N-Methyl-1-[2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride | yield 0.11 g, 35% | Cl.CNCC1=C(N(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C | InChI=1S/C19H20N2O2S.ClH/c1-15-17(14-20-2)13-19(16-9-5-3-6-10-16)21(15)24(22,23)18-11-7-4-8-12-18;/h3-13,20H,14H2,1-2H3;1H
